US04505913
In a manner analogous to that described in Example 1, the reaction of 5-[N-(2-methylpropyl)-sulfamoyl]-isatoic anhydride with 1-methylpiperazine yields 5-[N-(2-methylpropyl)-sulfamoyl]-anthranilic acid (4-methyl)-piperazide with a melting point of 162°-163° (from ethanol; melting point of the hydrochloride: 254°-255°).

reactant | 5-[N-(2-methylpropyl)-sulfamoyl]-isatoic anhydride | CC(CNS(=O)(=O)C1=CC=C2C(C(=O)OC(N2)=O)=C1)C | C12H14N2O5S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | ethanol | C(C)O | C2H6O
product | 5-[N-(2-methylpropyl)-sulfamoyl]-anthranilic acid (4-methyl)-piperazide | CN1CCN(CC1)C(C=1C(N)=CC=C(C1)S(NCC(C)C)(=O)=O)=O | C16H26N4O3S
